US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-methoxymethylmorpholino)-2-butynyl]piperazine (0.09 g) in methanol (10 ml) was hydrogenated in the presence of 10% palladium-carbon (40 mg) at room temperature. After 1 hour, palladium-carbon was removed by filtration and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel with a mixture of methanol and ethyl acetate as an eluent to give (2R)-1-[3,5-bis-(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-methoxymethylmorpholino)butyl]piperazine. It was dissolved in ethyl acetate (10 ml) and 4N hydrogen chloride in ethyl acetate (0.5 ml) was added thereto. The mixture was evaporated in vacuo and the residue was triturated with a mixture of ethyl acetate and isopropyl ether to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-methoxymethylmorpholino)butyl]piperazine dihydrochloride (0.03 g) as a solid.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-methoxymethylmorpholino)-2-butynyl]piperazine | 0.09 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@H](COCC2)COC)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C32H37F6N3O3
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | (2R)-1-[3,5-bis-(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-methoxymethylmorpholino)butyl]piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCCN2[C@H](COCC2)COC)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C32H41F6N3O3
